US06462038B1
This compound was prepared by General Method 1 from 2-amino-5-nitrophenol (6.0 g, 39 mmol), NaHCO3 (7.8 g, 93 mmol), and chloroacetyl chloride (3.58 mL, 45 mmol) to afford 6.91 g (91%) of 7-nitro-2H-1,4-benzoxazin-3(4H)-one. Data for 7-nitro-2H-1,4-benzoxazin-3(4H)-one: Rf 0.44 (11.5:1 CH2Cl2:MeOH); 1H NMR (400 MHz, DMSO-d6) δ 11.3 (br s, 1H), 7.90 (dd, 1H, J=8.7, 2.6), 7.76 (d, 1H, J=2.5), 7.06 (d, 1H, J=8.7), 4.73 (s, 2H).

reactant | 2-amino-5-nitrophenol | 39 mmol, 6.0 g | NC1=C(C=C(C=C1)[N+](=O)[O-])O | C6H6N2O3
reactant | NaHCO3 | 93 mmol, 7.8 g | C(=O)(O)[O-].[Na+]
reactant | chloroacetyl chloride | 45 mmol, 3.58 mL | ClCC(=O)Cl | C2H2Cl2O
product | 7-nitro-2H-1,4-benzoxazin-3(4H)-one | 6.91 g, 91% | [N+](=O)([O-])C1=CC2=C(NC(CO2)=O)C=C1 | C8H6N2O4
